US07666878B2
To a solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (0.5 g, 2.45 mmol) in DMF (3 mL) is added BEMP (1.13 mL, 3.92 mmol). After 1 hour, a solution of 3-cyano-4-fluoro-benzenesulfonyl chloride (0.86 g, 3.92 mmol) in DMF (3 mL) is added. The reaction mixture is stirred at room temperature overnight, then concentrated under reduced pressure to a minimum volume. The residue is loaded onto a pre-packed Isolute™ silica column and eluted using a gradient eluent from 100% iso-hexane to 50% EtOAc in iso-hexane to afford [1-(3-cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester; MH+=388.

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 2.45 mmol, 0.5 g | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 3.92 mmol, 1.13 mL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 3-cyano-4-fluoro-benzenesulfonyl chloride | 3.92 mmol, 0.86 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [1-(3-cyano-4-fluoro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)F)C#N)C)=O | C18H14FN3O4S
